US07504511B2
A) Methyl 4-(2-(tetrahydro-2H-pyran-2-yloxy)ethoxy)benzoate
A mixture containing 40 g of methyl 4-hydroxybenzoate and 90.84 g of K2CO3 in 400 ml of DMF is heated to 100° C. and 71.47 g of 2-(2-bromoethoxy)tetrahydro-2H-pyran are added slowly, with continued heating for 8 hours. The inorganic material is filtered off and rinsed with DMF. The filtrate is evaporated under vacuum and then taken up in DCM, washed 3 times with water, dried over MgSO4 and then evaporated. 77.66 g of the expected compound are obtained.

reactant | methyl 4-hydroxybenzoate | 40 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | K2CO3 | 90.84 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-(2-bromoethoxy)tetrahydro-2H-pyran | 71.47 g | BrCCOC1OCCCC1 | C7H13BrO2
solvent | DMF | 400 ml | CN(C)C=O | C3H7NO
product | Methyl 4-(2-(tetrahydro-2H-pyran-2-yloxy)ethoxy)benzoate | 77.66 g | O1C(CCCC1)OCCOC1=CC=C(C(=O)OC)C=C1 | C15H20O5
